US07741327B2
In a flask was placed (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4,4-difluoro-pentanoic acid methyl ester (139 mg, 0.39 mmol) in a 1:1 solution of tetrahydrofuran:water (8 mL) which was treated with lithium hydroxide monohydrate (35 mg, 0.78 mmol) and stirred for 1.5 h at 25° C. After such time, the mixture was concentrated in vacuo to remove the tetrahydrofuran and partioned between 1N aqueous hydrochloric acid (10 mL) and ethyl acetate (10 mL). The organic layer was separated, dried over sodium sulfate and concentrated in vacuo to afford (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4,4-difluoro-pentanoic acid (130 mg, 96%) as a light amber foam: HR-ES-MS m/z calculated for C15H14NO4ClF2 [M+H]+ 346.0652, observed 346.0652.

reactant | (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4,4-difluoro-pentanoic acid methyl ester | 0.39 mmol, 139 mg | COC([C@H](CC(C)(F)F)N1C(C=C(C1)OC1=C(C=CC=C1)Cl)=O)=O | C16H16ClF2NO4
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | lithium hydroxide monohydrate | 0.78 mmol, 35 mg | O.[OH-].[Li+]
solvent | water | 8 mL | O | H2O
product | (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4,4-difluoro-pentanoic acid | 130 mg, 96% | ClC1=C(OC2=CC(N(C2)[C@H](C(=O)O)CC(C)(F)F)=O)C=CC=C1 | C15H14ClF2NO4
